US06762300B2
2) Synthesis of ethyl 4-(4-tert-butoxycarbonylpiperazin-1-yl)-2-formylphenoxyacetate
0.5 g of 5-(4-tert-butoxypiperazin-1-yl)-2-hydroxybenzaldehyde are dissolved in 5 ml of NMP at 20° under nitrogen with stirring, and 0.25 g of potassium carbonate and 0.2 ml of ethyl bromoacetate are added. The mixture is stirred at 110° for 30 minutes and cooled to 25°. 30 ml of water and 30 ml of ethyl acetate are added to the mixture, the phases are separated, and the aqueous phase is extracted with 30 ml of ethyl acetate. The combined organic phases are washed with 30 ml of water and freed from solvent under reduced pressure. 30 ml of toluene, 30 ml of water and 5 ml of 1N HCl are added to the crystal slurry which remains, the toluene phase is removed under reduced pressure, and the crystalline precipitate is separated off and dried at 40° under reduced pressure (0.48 g; 75%), m.p. 93-94° C.; MS 392 (M+), 336 (100%), 250/249, 57.

reactant | 5-(4-tert-butoxypiperazin-1-yl)-2-hydroxybenzaldehyde | 0.5 g | C(C)(C)(C)ON1CCN(CC1)C=1C=CC(=C(C=O)C1)O | C15H22N2O3
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | water | 30 ml | O | H2O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(4-tert-butoxycarbonylpiperazin-1-yl)-2-formylphenoxyacetate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(OCC(=O)OCC)C=C1)C=O | C20H28N2O6
